US06300496B1
5.27 Grams (45 mmols) of 6-hydroxyhexanal was charged to a 100 milliliter Schlenk flask and dissolved in 45 milliliters of deionized water by heating to 85-95° C. in a water bath. The resulting solution was charged to the Parr autoclave, placed under 1500 psi air and heated to 120° C. Samples were taken every 30 minutes throughout the reaction. After 1.5 hours, reaction conversion was 89% and 6-hydroxycaproic acid was formed in 91% selectivity.

reactant | 6-hydroxyhexanal | 45 mmols | OCCCCCC=O | C6H12O2
reactant | water | 45 milliliters | O | H2O
product | 6-hydroxycaproic acid | OCCCCCC(=O)O | C6H12O3
